US06511974B1
[2-Chloro-4-(4-methyl-imidazol-1-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone
In the manner of Example 9's Method 1, employing (2-chloro-4-fluorophenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone (1.0 g), 60% sodium hydride in oil (0.3 g, degreased with hexane), 4-methylimidazole (0.48 g), and dimethylformamide (25 ml), the title compound (0.38 g) was obtained as an amorphous solid, MS, m/z: 403.3 (M+H)+.

reactant | (2-chloro-4-fluorophenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 1.0 g | ClC1=C(C=CC(=C1)F)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C19H14ClFN2O
reactant | sodium hydride | [H-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | 4-methylimidazole | 0.48 g | CC=1N=CNC1 | C4H6N2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | [2-Chloro-4-(4-methyl-imidazol-1-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.38 g | ClC1=C(C=CC(=C1)N1C=NC(=C1)C)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C23H19ClN4O
